Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a history of C-section
x 2, hysterectomy, morbid obesity and a history of recurrent 
SBOs
managed conservatively who presents with abdominal pain, nausea
and vomiting.

The patient's most recent admission was to the ACS service on
___ for a recurrent SBO, which presented in a similar
fashion to her presenting complaints today. She was made NPO, 
and
had return of bowel function within the first hospital day
without requiring NG tube decompression. She was discharged
thereafter in good condition. 

On evaluation today, she reports having experiencing colicky
epigastric pain since mid-day yesterday which has worsened
overnight, and associated nausea with 3 bouts of bilious emesis
since time of onset. She initially had a large episode of
diarrhea, but since that time had not been having bowel 
movements
or passing flatus. She does report having had passed flatus
approximately 1 hour prior to our consultation, however, and
feels an improvement in her nausea and pain since that time (now
reportedly minimal). Otherwise no fevers/chills, no
lethargy/malaise, no weight loss, no BRBPR.

 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with
symptoms beginning in the late ___ or early ___. Symptoms began
with weakness and sensory loss in the legs proximally. Symptoms
have been responsive to plasmapheresis approximately yearly. As
noted above, she is wheelchair bound.
TREATMENT HISTORY:
___ Weakness and sensory loss in legs, torso and arms
___ Visit with Dr. ___
___ Sural nerve biopsy
Pathology: marked loss of large and small myelinated axons 
___ - ___ IVIG
___ Worse symptoms with dysarthria, hypophonia, and dsypahgia 
___ Plasmapheresis, had coronary vasospasm, bradycardia and 
one episode of bilateral shoulder pain
___ line infection
___ Plasmapheresis, nausea, vomiting
___ Plasmapheresis, transient nausea and emesis
___ Plasmaexchange
___ Had abdominal pain, procedure postponed
___ - ___ Plasma exchange x4
___ Plasma exchange #1

Vitamin B12 deficiency
History of partial small-bowel obstruction
Diabetes, not on any medications at present
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin

 
Social History:
___
Family History:
Mother, brother with diabetes. Mother with liver, cervix, and
colon cancer, as well as CAD; father with lung cancer.

 
Physical Exam:
GEN: NAD, well appearing
HEENT: NCAT, trachea midline
CV: RRR, 2+ radial pulses b/l
RESP: breathing comfortably on room air
GI: obese, soft, non-TTP, no distension, rebound or guarding, no 
masses or hernias on palpation
EXT: well perfused
 
Pertinent Results:
___ 07:00AM BLOOD WBC-6.5 RBC-4.61 Hgb-13.6 Hct-43.1 MCV-94 
MCH-29.5 MCHC-31.6* RDW-13.5 RDWSD-46.6* Plt ___
___ 08:42AM BLOOD Neuts-67.1 ___ Monos-6.2 Eos-2.9 
Baso-0.3 Im ___ AbsNeut-4.47 AbsLymp-1.52 AbsMono-0.41 
AbsEos-0.19 AbsBaso-0.02
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-104* UreaN-11 Creat-0.8 Na-140 
K-4.2 Cl-102 HCO3-31 AnGap-11
___ 08:42AM BLOOD ALT-15 AST-28 AlkPhos-119* TotBili-0.5
___ 07:00AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.2
___ 01:06PM BLOOD Lactate-1.8
 
Brief Hospital Course:
Ms. ___ was admitted to the hospital for management of her 
small bowel obstruction. She has an extensive history of 
multiple small bowel obstructions that have all previously 
resolved with medical management. Upon admission to the ___ 
team, she received a nasogastric tube for bowel decompression 
and was made NPO. Over the course of her stay, she slowly 
experienced a return of her bowel function and she was passing 
gas appropriately. Her diet was advanced in a stepwise fashion 
until she was tolerating a regular diet with no issues. At the 
time of discharge, she denied abdominal discomfort, nausea, 
vomiting and was passing gas and tolerating a regular diet. She 
was OOB to chair as she is wheelchair dependent. She was 
discharged to her long term care facility with no additional 
medications. She was instructed to follow up with Dr. ___ in 
clinic at her designated appointment time. 

CT Scan:
1. Small bowel obstruction with likely transition point in the 
distal ileum.  
No evidence of bowel ischemia or perforation. 
2. Stable 2.7 x 2.3 cm right adrenal nodule, unchanged since 
___. 

 
Medications on Admission:
1.  AmLODIPine 2.5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  BuPROPion 150 mg PO BID  
5.  Gabapentin 100 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
 
Discharge Medications:
1.  AmLODIPine 2.5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  BuPROPion 150 mg PO BID  
5.  Gabapentin 100 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Unable to ambulate, wheelchair dependent

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for a small bowel obstruction. 
You were given bowel rest and intravenous fluids and a 
nasogastric tube was placed in your stomach to decompress your 
bowels. Your obstruction has subsequently resolved after 
conservative management. You have tolerated a regular diet, are 
passing gas and your pain is controlled with pain medications by 
mouth. You may return home to finish your recovery.  
 
If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. 

Good luck!  

 
Followup Instructions:
___